US05495020
To conc. sulfuric acid (3 ml) is added sodium nitrite (0.3 g). The mixture is stirred at.70° C. for 10 minutes and then cooled to below 40° C. and thereto a solution of 2,3,5-trifluoro-4-methylaniline (0.48 g) in acetic acid (5 ml) is added dropwise below 40° C. After stirring for 30 minutes, the reaction mixture is added dropwise to a solution of copper (I) chloride (1.04 g) in conc. hydrochloric acid (10.4 ml) and the mixture is stirred at 80° C. for 30 minutes and then cooled. The resultant is poured into ice-water, extracted with dichloromethane, and the extract is .washed with water and dried. The solvent is distilled off under reduced pressure and purified by silica-gel column-chromatography (eluent; dichloromethane: n-hexane =1 : 4) to give 2,3,6-trifluoro-4-chlorotoluene (0.22 g).

reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 0.3 g | N(=O)[O-].[Na+]
reactant | 2,3,5-trifluoro-4-methylaniline | 0.48 g | FC1=C(N)C=C(C(=C1F)C)F | C7H6F3N
reactant | hydrochloric acid | 10.4 ml | Cl | ClH
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
catalyst | copper (I) chloride | 1.04 g | [Cu]Cl
product | 2,3,6-trifluoro-4-chlorotoluene | 0.22 g | FC1=C(C(=CC(=C1F)Cl)F)C | C7H4ClF3
